US06878707B2
To an ice bath cooled solution of (R)-(5-aminoindan-2-yl)-carbamic acid methyl ester (9.5 g, 46.1 mmol), ([α]D=−26.29° (c=9.87 mg/mL, DMSO); mp 144-145° C.) and pyridine (4.48 mL, 55.5 mmol) in 200 mL of methylene chloride is added 6-methyl-4′-trifluoromethyl-1,1′-biphenyl-2-carboxylic acid chloride (80.5 mL of a 0.63 M solution in methylene chloride, 50.7 mmol). The reaction is stirred for 15 minutes at room temperature. The mixture is washed with 1N HCl, bicarbonate and brine. The organic layer is dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The product is purified by crystallization from ethyl acetate/hexanes (1:2) to give (R)-6-methyl-4′-trifluoromethyl-1,1′-biphenyl-2-carboxylic acid (2-methoxycarbonylaminoindan-5-yl)-amide as crystalline solid, mp 112-114° C. [α]D=−12.85°, c=11.36 mg/mL DMSO.

reactant | (R)-(5-aminoindan-2-yl)-carbamic acid methyl ester | 46.1 mmol, 9.5 g | COC(N[C@@H]1CC2=CC=C(C=C2C1)N)=O | C11H14N2O2
reactant | DMSO | CS(=O)C | C2H6OS
reactant | pyridine | 55.5 mmol, 4.48 mL | N1=CC=CC=C1 | C5H5N
reactant | 6-methyl-4′-trifluoromethyl-1,1′-biphenyl-2-carboxylic acid chloride | CC=1C=CC=C(C1C1=CC=C(C=C1)C(F)(F)F)C(=O)Cl | C15H10ClF3O
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
product | (R)-6-methyl-4′-trifluoromethyl-1,1′-biphenyl-2-carboxylic acid (2-methoxycarbonylaminoindan-5-yl)-amide | COC(=O)N[C@@H]1CC2=CC=C(C=C2C1)NC(=O)C=1C(=C(C=CC1)C)C1=CC=C(C=C1)C(F)(F)F | C26H23F3N2O3
